US07148239B2
N,N,N′-trimethyl-N′-[3-(1-piperidinyl)-propoxy] N″-phenyl-guanidine
344 mg (2.0 mmole) 1-methylaminooxy-2-hydroxy-3-(1-piperidinyl)-propane was dissolved in chloroform and 220 mg of Na2CO3 was added, then a solution of 438 mg (2.0 mmole) of N,N-dimethyl-N′-phenyl-chloroformamidine hydrochloride in 3 ml of chloroform was added dropwise. After 8 hours the solid state was filtered and the filtrate was evaporated. This residue was dissolved in ethyl acetate and the product was extracted by addition of HCl solution (pH=1) to water. The aqueous phase was made alkaline then by addition of 2N NaOH solution to pH=11, and extracted with ethyl acetate. The organic phase was evaporated, and the further purification was made by column chromatography to give the title compound as a yellow oil.

reactant | 1-methylaminooxy-2-hydroxy-3-(1-piperidinyl)-propane | 2.0 mmole, 344 mg | CNOCC(CN1CCCCC1)O | C9H20N2O2
reactant | Na2CO3 | 220 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | N,N-dimethyl-N′-phenyl-chloroformamidine hydrochloride | 2.0 mmole, 438 mg | Cl.CN(C(=NC1=CC=CC=C1)Cl)C
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N,N′-trimethyl-N′-[3-(1-piperidinyl)-propoxy] N″-phenyl-guanidine | Yield: 10% | CN(C(=NC1=CC=CC=C1)N(OCCCN1CCCCC1)C)C | C18H30N4O
